US06372736B1
(2S)-1-(1,3-Benzoxazol-2-yl)-N2-[(3S)-1-benzylpyrrolidin-3-yl]-2-piperidinecarboxamide
The title compound was prepared by a similar method to Example 1 from (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid [see Preparation 3] and (3S)-1-benzylpyrrolidin-3-ylamine. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 50:50:1, changing to 20:80:1, by volume, hexane:ethyl acetate: 0.88 aqueous ammonia solution, in 10% increments. The product was further purified by recrystallisation from ethyl acetate:hexane to afford (2S)-1-(1,3-benzoxazol-2-yl)-N2-[(3S)-1-benzylpyrrolidin-3-yl]-2-piperidinecarboxamide as a white solid.

reactant | (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C13H14N2O3
reactant | (3S)-1-benzylpyrrolidin-3-ylamine | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
product | (2S)-1-(1,3-benzoxazol-2-yl)-N2-[(3S)-1-benzylpyrrolidin-3-yl]-2-piperidinecarboxamide | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)N[C@@H]2CN(CC2)CC2=CC=CC=C2 | C24H28N4O2
